US04390702
In the same manner as in Example 1, methyl 3-(4-chlorophenyl)pyruvate is dissolved in acetonitrile (500 ml) and reacted with fluorine at -10° C. After the same work-up as in Example 1, the resulting crude product is rectified to give syrupy methyl 3-(4-chlorophenyl)-3-fluoropyruvate (7.49 g).

reactant | fluorine | FF | F2
reactant | methyl 3-(4-chlorophenyl)pyruvate | ClC1=CC=C(C=C1)CC(C(=O)OC)=O | C10H9ClO3
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | methyl 3-(4-chlorophenyl)-3-fluoropyruvate | 7.49 g | ClC1=CC=C(C=C1)C(C(C(=O)OC)=O)F | C10H8ClFO3
